US07390830B1
Synthesis of 1-(4-chorobenzyl)-4-[[N-(4-isopropylphenylsulfonyl)glycyl]aminomethyl]piperidine (Compd. No. 869)
A (piperidinomethyl)polystyrene resin (28 mg, 2.8 mmol/g) and 4-isopropylbenzenesulfonyl chloride (1.5 equivalents) were added to a chloroform (2 mL) solution of 1-(4-chlorobenzyl)-4-[(glycylamino)methyl]piperidine (14.8 mg, 0.05 mmol). The resulting mixture was stirred at 25° C. for 16 hours, then filtered and concentrated to thereby afford 1-(4-chlorobenzyl)-4-[[N-(4-isopropylphenylsulfonyl)glycyl]aminomethyl]piperidine (Compd. No. 869) (22.1 mg, 92%). The purity was determined by RPLC/MS (86%). ESI/MS m/e 478 (M++H, C24H32N3O3S).

reactant | (piperidinomethyl)polystyrene | 28 mg | C1CCNCC1 | C5H11N
reactant | 4-isopropylbenzenesulfonyl chloride | 1.5 equivalents | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | 1-(4-chlorobenzyl)-4-[(glycylamino)methyl]piperidine | 0.05 mmol, 14.8 mg | ClC1=CC=C(CN2CCC(CC2)CNC(CN)=O)C=C1 | C15H22ClN3O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-chorobenzyl)-4-[[N-(4-isopropylphenylsulfonyl)glycyl]aminomethyl]piperidine | ClC1=CC=C(CN2CCC(CC2)CNC(CNS(=O)(=O)C2=CC=C(C=C2)C(C)C)=O)C=C1 | C24H32ClN3O3S
